US06288096B1
4-(2-{4-[Hydroxyaminomethyl]phenoxy}ethyl)phenyl methanesulfonate
1.88 g (30 mmole) sodium cyanoborohydride was added to a solution of 2.0 g (6 mmole) 4-{2-[4-(hydroxyiminomethyl)phenoxy]ethyl}phenyl methanesulfonate in 90 ml methanol and 18 ml tetrahydrofuran. Gas evolution was observed. 5 mg methyl orange was added resulting in a yellow colour. 4 M hydrochloric acid:dioxane (2:1) was added dropwise until the color was dark red (pH 2-3). The reaction mixture was poured into water, basified with 2 M sodium hydroxide (pH 9). More water was added and the product was extracted with ethyl acetate, dried, filtered and evaporated. The yellow residue was purified by chromatography on silica gel using ethyl acetate as eluent to give 1.2 g colourless oil of 4-(2-{4-[hydroxyaminomethyl]phenoxy}ethyl)phenyl methanesulfonate.

reactant | sodium cyanoborohydride | 30 mmole, 1.88 g | C(#N)[BH3-].[Na+]
reactant | 4-{2-[4-(hydroxyiminomethyl)phenoxy]ethyl}phenyl methanesulfonate | 6 mmole, 2.0 g | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=NO | C16H17NO5S
reactant | hydrochloric acid dioxane | 4 M | Cl.O1CCOCC1
reactant | sodium hydroxide | 2 M, pH 9 | [OH-].[Na+]
solvent | methanol | 90 ml | CO | CH4O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
catalyst | methyl orange | 5 mg | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
solvent | water | O | H2O
product | 4-(2-{4-[Hydroxyaminomethyl]phenoxy}ethyl)phenyl methanesulfonate | 1.2 g | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CNO | C16H19NO5S
